US05658997
Synthesis of 4-bromo-2-i-butyl-1-trimethylsilyloxyindane
A 300-ml three-necked round flask equipped with a stirring bar, a Dimroth condenser, a dropping funnel and a thermometer was charged with 34.4 g (127.8 mmol) of 4-bromo-2-1-butyl-1-hydoxyindane, 23.1 ml (166.2 mmol) of triethylamine and 118 ml of methylene chloride. To the mixture was added dropwise 20 ml of a methylene chloride solution containing 19.45 ml (153.4 mmol) of trimethylsilyl chloride under a nitrogen atmosphere while cooling with ice bath. After the addition was completed, the temperature was elevated to room temperature, and the mixture was further stirred for 1.5 hours. The reaction mixture was poured onto a mixture of 200 ml of ice water and 20 ml of a saturated aqueous solution of sodium bicarbonate. Then, the organic phase was separated, and the aqueous phase was further extracted with 50 ml of methylene chloride two times. The combined organic phase was washed with 100 ml of a saturated NaCl aq., followed by dried over anhydrous Na2SO4. The solvent was evaporated under reduced pressure. The residue was distilled under reduced pressure to obtain 41.8 g of the desired product (mixture of two isomers) as a pale yellow liquid (yield: 96%).

reactant | 4-bromo-2-1-butyl-1-hydoxyindane | 127.8 mmol, 34.4 g | BrC1=C2CC(C(C2=CC=C1)O)CCCC | C13H17BrO
reactant | triethylamine | 166.2 mmol, 23.1 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyl chloride | 153.4 mmol, 19.45 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 118 ml | C(Cl)Cl | CH2Cl2
product | 4-bromo-2-i-butyl-1-trimethylsilyloxyindane | 41.8 g, yield: 96% | BrC1=C2CC(C(C2=CC=C1)O[Si](C)(C)C)CC(C)C | C16H25BrOSi
